US07557114B2
(c) 5-(3-Fluoro-oxetan-3-yl)-2,3-dihydro-1H-isoindole
To 0.58 mmol 3-(2,3-dihydro-1H-isoindol-5-yl)-oxetan-3-ol in 2 ml acetonitrile and 2 ml nitromethane at −60° C. was added 1.15 mmol diethylaminosulfur trifluoride and the mixture was allowed to warm to 0° C. over 30 min. The reaction mixture was re-cooled to −60° C. and quenched by addition of 5 ml saturated aq. sodium carbonate solution. The mixture was warmed to RT and diluted with THF and ethyl acetate, then washed sequentially with water and with brine. The organic phase was separated, dried over sodium sulfate, and concentrated in vacuo to afford the title compound as a brown oil (67% yield). MS (m/e): 194.3 ([M+H]+, 100%).

reactant | 3-(2,3-dihydro-1H-isoindol-5-yl)-oxetan-3-ol | 0.58 mmol | C1NCC2=CC(=CC=C12)C1(COC1)O | C11H13NO2
reactant | diethylaminosulfur trifluoride | 1.15 mmol | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | nitromethane | 2 ml | [N+](=O)([O-])C | CH3NO2
product | 5-(3-Fluoro-oxetan-3-yl)-2,3-dihydro-1H-isoindole | 67% yield | FC1(COC1)C=1C=C2CNCC2=CC1 | C11H12FNO
